US06841554B2
A solution of sodium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate in aqueous acetonitrile (40 ml) was cooled to −5° C. and 1M hydrochloric acid (9.5 ml) containing sodium chloride (7.1 g) was added to adjusted the pH to 3.8. The aqueous phase was separated off and acetonitrile (70 ml) was added to the organic phase. Benzylamine (1.4 ml) was added and the solution was heated to 30° C. and held at this temperature for 90 minutes. The product was isolated by filtration at 0° C. and dried at 35° C. under vacuum to give benzylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate (4.4 g) as white crystals. The X-ray powder diffraction spectra for a typical sample of the crystalline benzylammonium salt is shown in FIG. 6 hereinafter. The ten most prominent peaks in the XRD occur at about 2-theta=6.1, 6.7, 16.8, 17.6, 18.1, 19.3, 21.1, 21.9, 23.0 and 26.8°.

reactant | sodium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.[Na+]
reactant | hydrochloric acid | 1M, 9.5 ml | Cl | ClH
reactant | sodium chloride | 7.1 g | [Cl-].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | benzylammonium (E)-7-[4-(4-fluorophenyl)-6-isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidin-5-yl]-(3R,5S)-3,5-dihydroxyhept-6-enoate | 4.4 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)N(S(=O)(=O)C)C.C(C1=CC=CC=C1)[NH3+] | InChI=1S/C22H28FN3O6S.C7H9N/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;8-6-7-4-2-1-3-5-7/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);1-5H,6,8H2/b10-9+;/t16-,17-;/m1./s1
